US04324727
Using a method similar to Example 1, 186 parts of methyl 4-formyl-4-methyl-heptanoate are reacted with 80 parts of oxygen in the course of 5 hours. 86 parts (61% of theory) of γ-methyl-γ-propyl-γ-butyrolactone (boiling point 117°-119° C./20 mbar) are obtained.

reactant | methyl 4-formyl-4-methyl-heptanoate | C(=O)C(CCC(=O)OC)(CCC)C | C10H18O3
reactant | oxygen | O=O | O2
product | γ-methyl-γ-propyl-γ-butyrolactone | 61% | CC1(CCC(=O)O1)CCC | C8H14O2
